US05534518
A stirred solution of 10.0 grams (0.055 mole) of 5-chloro-2-nitrobenzonitrile and 8.8 grams (0.055 mole) of 2-naphthalenethiol in 80 mL of N,N-dimethylformamide was cooled to 0° C., and 7.6 grams (0.055 mole) of potassium carbonate was added. Upon completion of addition, the reaction mixture was stirred at 0° C. for 1 hour. Thin layer chromatographic (TLC) analysis of the reaction mixture after this time indicated that the reaction had not gone to completion. The reaction mixture was then allowed to warm to ambient temperature, where it was stirred for about 18 hours. The reaction mixture was stirred with 80 mL of pyridine and then was diluted with water until a solid precipitate formed. The solid was collected by filtration and was washed in turn with an aqueous solution of 10% pyridine, water, an aqueous solution of 1% hydrochloric acid, and finally with water. The solid was then dissolved in ethyl acetate and dried with magnesium sulfate. The mixture was filtered, and the filtrate was concentrated under reduced pressure to a residual solid. The solid was subjected to column chromatography on silica gel. Elution was accomplished with 10% ethyl acetate in heptane. The product-containing fractions were combined and concentrated under reduced pressure, yielding 13.5 grams of 2-nitro-5-(naphth-2-ylthio)benzonitrile. A small sample was recrystallized from ethyl acetate/hexane, mp 139°-140° C. The NMR spectrum was consistent with the proposed structure.

reactant | 5-chloro-2-nitrobenzonitrile | 0.055 mole, 10.0 grams | ClC=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | 2-naphthalenethiol | 0.055 mole, 8.8 grams | C1=C(C=CC2=CC=CC=C12)S | C10H8S
reactant | potassium carbonate | 0.055 mole, 7.6 grams | C([O-])([O-])=O.[K+].[K+]
reactant | pyridine | 80 mL | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-nitro-5-(naphth-2-ylthio)benzonitrile | 13.5 grams | [N+](=O)([O-])C1=C(C#N)C=C(C=C1)SC1=CC2=CC=CC=C2C=C1 | C17H10N2O2S
